US04587346
In like manner, 5-chloro-2-(2-hydroxy-3-dodecyl-5-methylphenyl-2H-benzotriazole is prepared by substituting for the benzotriazole used above an equivalent amount of 5-chloro-2-(2-hydroxy-5-methylphenyl)-2H-benzotriazole.

reactant | benzotriazole | N1N=NC2=C1C=CC=C2 | C6H5N3
reactant | 5-chloro-2-(2-hydroxy-5-methylphenyl)-2H-benzotriazole | ClC1=CC=2C(=NN(N2)C2=C(C=CC(=C2)C)O)C=C1 | C13H10ClN3O
product | 2-hydroxy-3-dodecyl-5-methylphenyl-2H-benzotriazole | OC1=C(C=C(C=C1CCCCCCCCCCCC)C)N1N=C2C(=N1)C=CC=C2 | C25H35N3O
